US04115397
4-sec-butylpyridine.
A method similar to that of Brown and Murphey is employed.4Approximately 500 ml of NH3 was condensed in a 1-liter flask; 1 mole of sodium amine (Fisher) followed by 1.0 mole of 4-ethylpyridine is added to the flask. After stirring under NH3 reflux for 30 minutes, 1.1 mole of ethyl iodide is added via an addition funnel to the orange-red suspension over a 1.5 hour period. Stirring is continued after the ethyliodide addition is complete and the solvent is allowed to evaporate slowly. Water (50 ml) is added to the residue and the layers are separated. The aqueous layer is extracted with ether and the combined organic layers are dried over Na2CO3, concentrated, and distilled. A colorless oil, 117.2 gm (87%), bp 120-25/90mm (lit.5 128°-30°/100 mm) is collected. The oil exhibits an nmr signal typical for a sec-butyl group in addition to the usual pattern for 4-substituted pyridine.

reactant | 4-ethylpyridine | 1.0 mole | C(C)C1=CC=NC=C1 | C7H9N
reactant | ethyl iodide | 1.1 mole | C(C)I | C2H5I
solvent | NH3 | 500 ml | N | H3N
product | 4-sec-butylpyridine | C(C)(CC)C1=CC=NC=C1 | C9H13N
